US07709473B2
8-(2-Amino-ethylamino)-6-tert-butyl-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one
A solution of 100 mg of [2-(6-tert-butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-ethyl]-carbamic acid tert-butyl ester in dichloromethane (5.0 mL) was treated with 1.48 g of TFA at ambient temperature for 16 h. The solvent was removed and the residue was recrystallized from ether to afford the title compound as a white solid. MS (M+H+)=251.3.

reactant | [2-(6-tert-butyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-8-ylamino)-ethyl]-carbamic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(NCCNC=1C=2N(C=C(N1)C(C)(C)C)C(NN2)=O)=O | C16H26N6O3
reactant | TFA | 1.48 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | 8-(2-Amino-ethylamino)-6-tert-butyl-2H-[1,2,4]triazolo[4,3-a]pyrazin-3-one | NCCNC=1C=2N(C=C(N1)C(C)(C)C)C(NN2)=O | C11H18N6O
